US09193693B2
Step 1. Methyl 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate
Into a 20-mL sealed tube, was placed a solution of 4-(4-(trifluoromethyl)phenyl)piperidine (420 mg, 1.83 mmol, 3.00 equiv), methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv), DIEA (305 mg, 2.36 mmol, 5.00 equiv) in N,N-dimethylformamide (10 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 200 mg (83%) of methyl 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | 4-(4-(trifluoromethyl)phenyl)piperidine | 1.83 mmol, 420 mg, 3.00 equiv | FC(C1=CC=C(C=C1)C1CCNCC1)(F)F | C12H14F3N
reactant | methyl 2-chloro-3-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)OC | C16H10ClFN2O2
reactant | DIEA | 2.36 mmol, 305 mg, 5.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F | C28H23F4N3O2
